US05212191
Synthesis of 3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-oxopropionic acid ethyl ester
A solution of (3RS)-3-[(2S)-1-[3(N-benzyl-N-methylcarbamoyl)propionyl]pyrrolidin-2-yl]-3-hydroxypropionic acid ethyl ester (230 mg) in acetone (1 ml) was cooled to -30° C. Excess Jones' reagent was added dropwise to the solution. The mixture was stirred for 1 hr at the same temperature, and for 1 hr at -20° C., and for 1 hr at -10° C. Isopropyl alcohol was added to the reaction solution. Water was added to the mixture. The mixture was extracted with EtOAc. The extract was washed, dried, and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtOAc) to give the title compound (98 mg) having the following physical data:

reactant | (3RS)-3-[(2S)-1-[3(N-benzyl-N-methylcarbamoyl)propionyl]pyrrolidin-2-yl]-3-hydroxypropionic acid ethyl ester | 230 mg | C(C)OC(CC(O)[C@H]1N(CCC1)C(CCC(N(C)CC1=CC=CC=C1)=O)=O)=O | C21H30N2O5
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Isopropyl alcohol | C(C)(C)O | C3H8O
reactant | Water | O | H2O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-oxopropionic acid ethyl ester | 98 mg | C(C)OC(CC(=O)[C@H]1N(CCC1)C(CCC(N(C)CC1=CC=CC=C1)=O)=O)=O | C21H28N2O5
